### PR TITLE
Add Erdős problem 425

### LINKED ISSUE #724: Erdős Probelm 425
### What is the conjecture
    
https://www.erdosproblems.com/425

  Let $F(n)$ be the maximum possible size of a subset $A\subseteq\\{1,\ldots,N\\}$ such that the products $ab$ are distinct for all $a<b$. Is there a constant $c$ such that
$$F(n)=\pi(n)+(c+o(1))n^{3/4}(\log n)^{-3/2}?$$

If $A\subseteq \\{1,\ldots,n\\}$ is such that all products $a_1\cdots a_r$ are distinct for $a_1<\cdots <a_r$ then is it true that
$$\lvert A\rvert \leq \pi(n)+O(n^{\frac{r+1}{2r}})?$$
  

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by putonthetableacat55**
Formalize both parts of Erdős problem 425 directly. The main statement now defines the extremal function canonically and states the requested second-order asymptotic using Mathlib’s prime-counting function.

Fixes #724.

### CODE REVIEW

**Comment by Smetalo** [comment]
Does this resolve #724?

File: FormalConjectures/ErdosProblems/425.lean [hunk 1]
```diff
@@ -0,0 +1,124 @@
...
+                  (A.card : ℝ) ≤
+                    (primeCounting n : ℝ) +
+                      C * Real.rpow (n : ℝ) (((r : ℝ) + 1) / (2 * (r : ℝ)))
+
+/--
+Main question: determine whether the pair-product extremal function has the
+stated second-order asymptotic.
+-/
+@[category research open, AMS 11 5]
+theorem erdos_425.parts.i : {F : ℕ → ℕ | Erdos425MainAsymptotic F} = answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/425.lean:114]: Same as on your other PR. I see no second order asymptotic in your statement

File: FormalConjectures/ErdosProblems/425.lean [hunk 2]
```diff
@@ -0,0 +1,74 @@
...
+noncomputable def pairProductExtremal (n : ℕ) : ℕ := by
+  classical
+  exact Nat.findGreatest
+    (fun m => ∃ A : Finset ℕ, A ⊆ Finset.Icc 1 n ∧ PairProductDistinct A ∧ A.card = m) n
+
+/--
+For `r`, all products over `r` distinct elements of `A` are distinct.  We use
+finite subsets of `A` of cardinality exactly `r`.
+-/
+def RProductsDistinct (r : ℕ) (A : Finset ℕ) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/425.lean:48]: Can you state/ show that `RProductsDistinct 2 = PairProductDistinct`?
